US04167508
2.86 g (8 mmol) of 3-(4-tert.butoxyphenyl)-propionic acid 4-nitrobenzyl ester in 500 ml of dioxan are saponified while stirring with 8 ml of 2-N sodium hydroxide for 2 hours at 70° C. and for 12 hours at room temperature. After acidifying the solution with an equivalent amount of 1-N hydrochloric acid, the organic solvent is almost completely removed in vacuo and the residue partitioned between 40 ml of 0.5-N potassium hydrogen carbonate solution and diethyl ether. After cooling, the aqueous phase is cautiously acidified with 1-N hydrochloric acid and extracted several times with ethyl acetate. The combined organic phases are washed neutral with water, dried over sodium sulphate and evaporated in vacuo. A solution of the residue in heptane is filtered and evaporated to dryness in vacuo. There is obtained 3-(4-tert.butoxyphenyl)-propionic acid in the form of a crystalline residue of melting point 29°-31° C. The product is chromatographically pure in cyclohexane/chloroform/acetic acid (45:45:10). The yield amounts to 1.3 g (73% of theory).

reactant | 3-(4-tert.butoxyphenyl)-propionic acid 4-nitrobenzyl ester | 8 mmol, 2.86 g | [N+](=O)([O-])C1=CC=C(COC(CCC2=CC=C(C=C2)OC(C)(C)C)=O)C=C1 | C20H23NO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
product | 3-(4-tert.butoxyphenyl)-propionic acid | C(C)(C)(C)OC1=CC=C(C=C1)CCC(=O)O | C13H18O3
